US07459448B2
9-Chloro-2-[4-(3-pyrrolidin-1-yl-propyl)-phenylamino]-5H,7H-benzo[b]pyrimido[4,5-d]-azepin-6-one (I-66)
To a solution of 9-chloro-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylamino]-5H,7H benzo[b]pyrimido[4,5-d]azepin-6-one (I-47) (0.082 g, 0.19 mmol) in EtOH (5 mL) was added Pd/C (10% wt, ˜50% H2O, 0.01 g) and the mixture was placed under H2 (1 atm) and stirred for 12 h at 22° C. The reaction mixture was filtered through Celite® and the filtrate concentrated in vacuo to give crude product as a yellow oil. Purification by C-18 RP LC-MS chromatography afforded I-66 (0.046 g, 56%):

reactant | 9-chloro-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylamino]-5H,7H benzo[b]pyrimido[4,5-d]azepin-6-one | 0.19 mmol, 0.082 g | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)C#CCN3CCCC3)=O)C1 | C25H22ClN5O
reactant | H2O | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 9-Chloro-2-[4-(3-pyrrolidin-1-yl-propyl)-phenylamino]-5H,7H-benzo[b]pyrimido[4,5-d]-azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)CCCN3CCCC3)=O)C1 | C25H26ClN5O
